US04159331
A mixture of 10.62 g (0.0305 m) of 1-[(p-nitrophenyl)sulfonyl]-4-(2-pyridinyl)piperazine, 1.5 g of 5% palladium on charcoal, and 150 ml of absolute ethanol is shaken under hydrogen on a Parr hydrogenator. After the theoretical amount of hydrogen has been taken up, the catalyst is filtered off and the filtrate is taken to dryness. The product, 1-[(p-aminophenyl)sulfonyl]-4-(2-pyridinyl)piperazine, is crystallized from methanol/methylene chloride to give 7.89 g (81%) of 1-[(p-aminophenyl)sulfonyl]-4-(2-pyridinyl)piperazine of melting point 208°-210° C.

reactant | 1-[(p-nitrophenyl)sulfonyl]-4-(2-pyridinyl)piperazine | 10.62 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=NC=CC=C1 | C15H16N4O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-[(p-aminophenyl)sulfonyl]-4-(2-pyridinyl)piperazine | 7.89 g, 81% | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=NC=CC=C1 | C15H18N4O2S
